US07763562B2
Under an argon atmosphere, to a solution of 4.56 ml (4.66 g, 50.0 mmol) of PhNH2 in 200 ml of toluene, 20.0 ml of 2.5 M nBuLi (50.0 mmol) in hexanes was added dropwise at ambient temperature. Then, hexanes were distilled off under vacuum. To the obtained suspension, 12.1 g (39.7 mmol) of 4-bromo-1-methoxy-1-phenylindane, 434 mg (0.76 mmol) of Pd(dba)2, and 503 mg (1.47 mmol) of N-{2′-[di(tert-butyl)phosphino][1,1′-biphenyl]-2-yl}-N,N-dimethylamine were added. This mixture was refluxed for 1 hour, then, 300 ml of water was added. The organic layer was separated; the aqueous layer was extracted with 3×75 ml of ether. The combined extract was dried over Na2SO4 and, then, evaporated to dryness. The analytically pure 1-methoxy-N,1-diphenyl-4-indanamine was obtained by flash chromatography on Silica Gel 60 (40-63 μm, d 50 mm, 1300 mm, eluant: CH2Cl2). Yield, 12.5 g (99%).

reactant | PhNH2 | 50.0 mmol, 4.56 ml, 4.66 g | C1(=CC=CC=C1)N | C6H7N
reactant | nBuLi | 50.0 mmol, 2.5 M, 20.0 ml | [Li]CCCC
reactant | 4-bromo-1-methoxy-1-phenylindane | 39.7 mmol, 12.1 g | BrC1=C2CCC(C2=CC=C1)(C1=CC=CC=C1)OC | C16H15BrO
reactant | N-{2′-[di(tert-butyl)phosphino][1,1′-biphenyl]-2-yl}-N,N-dimethylamine | 1.47 mmol, 503 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C(C)(C)C | C22H32NP
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | 0.76 mmol, 434 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | water | 300 ml | O | H2O
product | 1-methoxy-N,1-diphenyl-4-indanamine | COC1(CCC=2C(=CC=CC12)NC1=CC=CC=C1)C1=CC=CC=C1 | C22H21NO
